US04112095
A mixture 10 g. of 6-[4-nitro-3-(trifluoromethyl)phenyl]-3(2H)-pyridazinone in 50 ml. of trifluoroacetic acid is reduced with hydrogen and palladium on carbon to give 6-[4-amino-3-(trifluoromethyl)phenyl]-3(2H)-pyridazinone. The preceding compound is converted to 6-[4-fluoro-3-(trifluoromethyl)phenyl]-3(2H)-pyridazinone by the procedure described in J. Org. Chem., 26, 468 (1961). The preceding compound is reacted with phosphorus oxychloride as described in Example 47 to give 3-chloro-6-[4-fluoro-3-(trifluoromethyl)phenyl]pyridazine., which is reacted with formylhydrazine as described in Example 48 to give the product of the example.

reactant | 6-[4-fluoro-3-(trifluoromethyl)phenyl]-3(2H)-pyridazinone | FC1=C(C=C(C=C1)C=1C=CC(NN1)=O)C(F)(F)F | C11H6F4N2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-chloro-6-[4-fluoro-3-(trifluoromethyl)phenyl]pyridazine | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)F)C(F)(F)F | C11H5ClF4N2
